data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
398,432,[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([CH3:18])[C:19]#[N:20].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([CH3:18])([C:19]#[N:20])[O:16][C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,9.541760579659243,-40.98420890690557
1319,1448,[CH3:13][CH:14]=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:14]([CH3:13])[NH:15][C:16]2([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22],water,298.15,17.04335088411581,-15.167607310438209
400,434,[CH3:13][CH-:14][O+:15]=[CH:16][C:17](=[O:18])[NH:19][CH3:20].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:16]([C:17](=[O:18])[NH:19][CH3:20])[O:15][CH:14]3[CH3:13],water,298.15,9.29005419002231,-71.85271997229762
1380,1517,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([C:20](=[O:21])[O:22][CH3:23])[c:24](=[O:25])[o:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]1([C:15]([O:14][CH3:13])=[O:16])[NH:18][C:19]2([C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[O:26]1,water,298.15,22.85217038715689,-9.560208165694975
3621,4140,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[NH+:12][C-:13]([C:14]#[N:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([NH:8][CH3:7])=[O:10])[NH:12][C:13]1([C:14]#[N:15])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,20.282356598234,-14.437141942437146
493,539,[CH3:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:19]([C:20]#[N:21])[NH:18][C:16]3([C:14]([CH3:13])=[O:15])[CH3:17],water,298.15,14.959194213038804,-43.53544395642048
1979,2198,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([CH3:24])[O+:25]=[CH:26][C:27]([CH3:28])=[O:29].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([CH3:24])[O:25][CH:26]2[C:27]([CH3:28])=[O:29],water,298.15,15.790264555728236,-61.3879148919722
4413,5045,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[CH:21][C:22]#[N:23]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][CH:21]2[C:22]#[N:23],water,298.15,14.797877719056888,-37.16791858667176
1280,1401,[CH3:18][C:19]([C:20]#[N:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[CH3:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:19]([CH3:18])([C:20]#[N:21])[N:22]([CH3:23])[C:24]3([CH3:25])[CH3:26],water,298.15,14.878122314407882,-47.5627889205869
3807,4359,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8]([CH3:9])=[N+:10]([CH3:11])[C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:10]([CH3:11])[C:8]1([CH3:7])[CH3:9],water,298.15,36.89608783638196,-7.845778649182336
1120,1218,[CH3:13][C:14](=[O:15])[C:16]([C:17]([CH3:18])=[O:19])=[N+:20]([CH3:21])[C-:22]([CH3:23])[CH3:24].[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]#[C:7][CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]2=[C:7]([CH2:8][CH2:9][CH2:10][CH2:11][CH2:12]1)[C:22]([CH3:23])([CH3:24])[N:20]([CH3:21])[C:16]2([C:14]([CH3:13])=[O:15])[C:17]([CH3:18])=[O:19],water,298.15,35.77984613208832,-23.008043795679875
4228,4838,[CH3:9][NH:10][C:11](=[O:12])[N-:13][NH+:14]=[C:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[NH:14][C:15]1([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,32.67974877512376,-6.736775865709562
